data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_616059_0,[C:1](=[C:3](/[N:5]([H:12])[H:13])[C:7]([C:2]([H:17])([H:18])[H:19])(/[C:6](=[N:8]\[H:14])[H:15])[H:16])(\[N:4]([H:10])[H:11])[H:9]>>[C:1](/[C:3]([N:5]([H:12])[H:13])=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:16])([N:4]([H:10])[H:11])(/[C:6](=[N:8]\[H:14])[H:15])[H:9],69.96311249999422
MR_702364_1,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])([C:3]([N:5]([H:9])[H:10])=[O:7])[C:6](=[O:8])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([N:5]([H:9])[H:10])[O:7][C:6](=[O:8])[H:11])([H:12])([H:13])[H:17],52.72568749999806
MR_261377_0,[C@:1]1([C:2]([C:6]([H:18])([H:20])[H:21])([C:7]([H:19])([H:22])[H:23])[C:9](=[O:10])[H:12])([C:5]([H:15])([H:16])[H:17])[C@:3]([C:8]([H:24])([H:25])[H:26])([H:11])[C:4]1([H:13])[H:14]>>[C:1](=[C:2]([C:6]([H:18])([H:20])[H:21])[C:7]([H:19])([H:22])[H:23])([C:4]([C@:3]([C:8]([H:24])([H:25])[H:26])([C:9](=[O:10])[H:12])[H:11])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17],55.35867749998488
MR_686537_0,[C:1]([C:2]([O:6][N:3]([H:10])[H:11])=[O:8])([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[O:7][H:9]>>[C:1]([C:2]([O:7][H:9])=[O:8])([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[O:6][N:3]([H:10])[H:11],21.338765000021027
MR_415288_1,[C:1](/[C:2]([O:6][H:8])=[N:7]/[N:3]([H:9])[H:10])([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:1](=[C:2]([O:6][H:8])[N:7]([N:3]([H:9])[H:10])[C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12],72.63438000002708
MR_152142_0,[C:1](\[C:3](=[C:4]([H:11])[H:12])[H:10])([O:5][H:7])=[N:6]/[N:2]([H:8])[H:9]>>[C:1]1([O:5][H:7])=[C:3]([H:10])[C:4]([H:11])([H:12])[N:6]1[N:2]([H:8])[H:9],49.7356499999853
MR_549766_2,[C:1]1([C:2]([H:10])([H:11])[H:12])([C:6]([C:3]([H:13])([H:14])[H:15])=[O:8])[N:4]([H:9])[C:5]1=[O:7]>>[C:1](\[C:2]([H:10])([H:11])[H:12])(=[N:4]/[H:9])[C:5]([C:6]([C:3]([H:13])([H:14])[H:15])=[O:8])=[O:7],50.160467499982815
MR_319458_0,[C:1]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])([N:6]([C:3]([H:14])([H:15])[H:16])[O:8][C:2]([H:11])([H:12])[H:13])[N:7]([H:9])[H:10]>>[C:1]([C:4]([H:17])([H:18])[H:19])([N:6]([C:3]([H:14])([H:15])[H:16])[C:5]([H:20])([H:21])[H:22])([N:7]([H:9])[H:10])[O:8][C:2]([H:11])([H:12])[H:13],68.68740500000484
MR_561828_1,[C:1]1([N:6]([H:14])[H:15])([H:11])[C:2]([H:17])([H:18])[C:4]1([N:3]([N:5]([H:12])[H:13])[H:10])[C:8]([C:7](=[O:9])[H:16])([H:19])[H:20]>>[C:1]([C:2]([C:4]([N:3]([N:5]([H:12])[H:13])[H:10])=[C:8]([H:19])[H:20])([H:17])[H:18])([N:6]([H:14])[H:15])([C:7](=[O:9])[H:16])[H:11],37.37578250001605
MR_431852_1,[N:1]1([H:9])[C:4]2([C:2]([N:5]([H:10])[H:11])=[N:6]1)/[C:3](=[N:7]/[H:12])[N:8]2[H:13]>>[N:1]1([H:9])[C:4](=[N:8]\[H:13])/[C:3](=[N:7]\[H:12])[C:2]([N:5]([H:10])[H:11])=[N:6]1,42.65368499999525
MR_186207_0,[C:1]([N:4]([H:9])[H:10])([O:5]/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]/[O:6][H:8])([H:11])[H:12]>>[C:1]([N:4]([H:9])[H:10])([N:7]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:5])[O:6][H:8])([H:11])[H:12],35.40794249999067
MR_176105_1,[C:1]([C:4](/[C:3]([O:7][H:9])=[N:8]/[N:5]([H:10])[H:11])=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:3]([O:7][H:9])[N:8]([N:5]([H:10])[H:11])[C:6]1([C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15],44.83612999997817
MR_225601_0,[C:1]([C:2]([O:7][H:9])=[O:8])(/[C:3]([N:4]([H:10])[H:11])=[C:6](/[N:5]([H:12])[H:13])[H:16])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:2](=[O:8])[C@@:3]1([N:4]([H:10])[H:11])[C@@:6]([N:5]([H:12])[H:13])([O:7][H:9])[H:16],72.58982749999689
MR_121096_0,[C:1](/[C:4](=[C:5](/[C:2]([H:15])([H:16])[H:17])[H:14])[H:13])([O:6][N:3]([H:11])[H:12])([O:7][H:9])[O:8][H:10]>>[C:1]1([O:7][H:9])([O:8][H:10])[C@:4]([O:6][N:3]([H:11])[H:12])([H:13])[C@@:5]1([C:2]([H:15])([H:16])[H:17])[H:14],60.75643250001818
MR_224555_1,[C:1]([C:5]([C:3]12[N:2]([H:10])[N:7]1[C:4]([N:6]([H:11])[H:12])=[N:8]2)=[O:9])([H:13])([H:14])[H:15]>>[C:1]([C:5]([c:3]1[n:2]([H:10])[n:7][c:4]([N:6]([H:11])[H:12])[n:8]1)=[O:9])([H:13])([H:14])[H:15],12.467797499982112
MR_541855_0,[C:1](/[C:3]([N:2](/[C:4](=[N:7]\[H:10])[H:11])[O:5][H:8])=[N:6]/[H:9])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[N:2]\[O:5][H:8])[N:6](/[C:4](=[N:7]\[H:10])[H:11])[H:9])([H:12])([H:13])[H:14],45.10156249998573
MR_340327_0,[C@:1]([C:2]([H:13])([H:14])[H:15])([N:5]([O:8][H:9])[H:10])(/[C:6]([C:3]([H:16])([H:17])[H:18])=[C:7](/[C:4]([H:19])([H:20])[H:21])[H:12])[H:11]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:6](/[C:3]([H:16])([H:17])[H:18])[C@:7]([C:4]([H:19])([H:20])[H:21])([N:5]([O:8][H:9])[H:10])[H:12])[H:11],58.03433750000664
MR_152777_1,[C:1](/[C:4](=[N:3]/[O:9][H:10])[C:5]([C:2]([H:17])([H:18])[H:19])([N:6]([H:11])[H:12])[C:7](=[C:8]([H:20])[H:21])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:4]([N:3]([C:7](=[C:8]([H:20])[H:21])[H:13])[O:9][H:10])=[C:5](/[C:2]([H:17])([H:18])[H:19])[N:6]([H:11])[H:12])([H:14])([H:15])[H:16],72.13614500000091
